US04927812
(b) Preparation of dimethyl(3,4-dichlorophenyl)-bromosilane
A glass reactor was charged with 19.1 g (0.093 mole) of dimethyl(3,4-dichlorophenyl)silane and 200 ml of petroleum ether. This mixture was cooled to -10° C., at which time a solution containing 14.9 g (0.093 mole) of bromine and 200 ml petroleum ether was gradually added, with agitation, to the reaction mixture. A decolorization of the bromine was observed. The cooling bath was removed as the bromine addition progressed. The resultant reaction mixture was stirred for 1 hour at ambient temperature following completion of the bromine addition. The volatile materials present in the reaction mixture were removed by evaporation under reduced pressure. The residue weighed 26.3 g, which is equivalent to a yield of 100 percent.

reactant | dimethyl(3,4-dichlorophenyl)silane | 0.093 mole, 19.1 g | C[SiH](C1=CC(=C(C=C1)Cl)Cl)C | C8H10Cl2Si
reactant | bromine | 0.093 mole, 14.9 g | BrBr | Br2
product | dimethyl(3,4-dichlorophenyl)-bromosilane | C[Si](Br)(C1=CC(=C(C=C1)Cl)Cl)C | C8H9BrCl2Si
